### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.CliffordAlgebra.Grading

### PR DESCRIPTION
**Pull request by eric-wieser**
This runs into some annoying problems with https://github.com/leanprover/lean4/issues/1926 which makes working with the dependent types much worse than it was in Lean 3.

---

- [x] depends on: #4802

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#4802
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean [hunk 1]
```diff
@@ -0,0 +1,247 @@
...
+    (hιι_mul :
+      ∀ (m₁ m₂) {x hx},
+        P x hx →
+          P (ι Q m₁ * ι Q m₂ * x)
+            (zero_add n ▸ SetLike.mul_mem_graded (ι_mul_ι_mem_evenOdd_zero Q m₁ m₂) hx))
+    (x : CliffordAlgebra Q) (hx : x ∈ evenOdd Q n) : P x hx := by
+  apply Submodule.iSup_induction' (C := P) _ (hr 0 (Submodule.zero_mem _)) @hadd
+  refine' Subtype.rec _
+  -- TODO: this `simp_rw` is not actually doing anything, lean4#1926
+  simp_rw [Subtype.coe_mk, ZMod.nat_coe_zmod_eq_iff, add_comm n.val]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:183]: leanprover/lean4#1926

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#4802~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean [hunk 2]
```diff
@@ -165,33 +176,59 @@ theorem evenOdd_induction (n : ZMod 2) {P : ∀ x, x ∈ evenOdd Q n → Prop}
...
+  dsimp only [Subtype.coe_mk]
+  let hlean1926 : ∀ val : ℕ, ↑val = n ↔ ∃ k, val = 2 * k + ZMod.val n := by
+    intro val
+    simp_rw [ZMod.nat_coe_zmod_eq_iff, add_comm n.val]
+  have := fun val : ℕ => forall_prop_congr'
+    (q := fun property => ∀ x (hx : x ∈ LinearMap.range (ι Q) ^ val),
+      P x (Submodule.mem_iSup_of_mem { val := val, property := property } hx))
+    (hq := fun property => Iff.rfl) (hp := hlean1926 val)
+  simp_rw [this]; clear this
+  -- end porting note
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean]: This is extremely unfortunate, and is a major regression in `simp`'s ability to deal with dependent types.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean [hunk 3]
```diff
@@ -165,33 +176,59 @@ theorem evenOdd_induction (n : ZMod 2) {P : ∀ x, x ∈ evenOdd Q n → Prop}
...
       revert hx
-      simp_rw [pow_two]
-      refine' Submodule.mul_induction_on' _ _
-      · simp_rw [LinearMap.mem_range]
-        rintro _ ⟨m₁, rfl⟩ _ ⟨m₂, rfl⟩
+      -- porting note: was `simp_rw [pow_two]`
+      -- leanprover/lean4#1926 is to blame.
+      let hlean1926'' : x ∈ LinearMap.range (ι Q) ^ 2
+          ↔ x ∈ LinearMap.range (ι Q) * LinearMap.range (ι Q) := by
+        rw [pow_two]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:217]: Interestingly the proof fails if I use a `have` instead of a `let`, as then the induction principle is wrong.

**Review by jcommelin — APPROVED** [review]
Thanks for carefully documenting the regressions. Let's hope they get fixed soon!

bors merge
